US08008327B2
Synthesis of 6-Cyano-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide (24)
A mixture of 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide (0.04 g, 0.08 mmol), Pd2(dba)3 (0.009 g, 0.01 mmol), 1,1-bis(diphenylphosphino)ferrocene (dppf) (0.005 g, 0.01 mmol), zinc cyanide (0.01 g, 0.09 mmol) and zinc powder (0.002 g, 0.02 mmol) were charged in a sealed tube with anhydrous DMF (3 mL) at room temperature. The reaction mixture was heated at 120° C. for 3 hours. The solution was cooled to room temperature and diluted with saturated aqueous ammonium chloride (10 mL) and ethyl acetate (20 mL). The organic layer was separated and washed with brine (10 mL) and dried over sodium sulfate. The solvent was removed in vacuo. The residue was purified by silica gel chromatography eluting with a gradient of 20-70% ethyl acetate in hexanes to afford the title compound.

reactant | 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide | 0.08 mmol, 0.04 g | CNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=C(C2)Br)C2=CC=C(C=C2)F)C=C1 | C22H18BrFN4O3S
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd2(dba)3 | 0.01 mmol, 0.009 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | 1,1-bis(diphenylphosphino)ferrocene | 0.01 mmol, 0.005 g | [CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC=C1P(C2=CC=CC=C2)C3=CC=CC=C3.[Fe+2]
catalyst | zinc cyanide | 0.09 mmol, 0.01 g | [C-]#N.[Zn+2].[C-]#N
catalyst | zinc | 0.02 mmol, 0.002 g | [Zn] | Zn
product | 6-Cyano-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide | CNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=C(C2)C#N)C2=CC=C(C=C2)F)C=C1 | C23H18FN5O3S
